US04432979
20 g of 3-bromo-5-(4-pyrimidyl)-2(1H)-pyridone are suspended in 200 ml of dimethylformamide. A solution of 4.6 g of sodium methoxide in 300 ml of dry dimethylformamide and 15 ml of methanol is added to the pyridone suspension with stirring. The reaction mixture is filtered, 5.3 ml of methyl iodide are added to the filtrate and the mixture heated to 60° C. for 2 hours. After cooling to RT, the solution is concentrated in vacuo resulting in a liquid residue which crystallizes out upon addition of distilled H2O. The solid is stirred with 400 ml of distilled H2O, filtered, washed with H2O, isopropyl alcohol, and ether and dried, yielding 3-bromo-1-methyl-5-(4-pyrimidyl)-2-pyridone, M.P. 208°-210° C.

reactant | 3-bromo-5-(4-pyrimidyl)-2(1H)-pyridone | 20 g | BrC=1C(NC=C(C1)C1=NC=NC=C1)=O | C9H6BrN3O
reactant | sodium methoxide | 4.6 g | C[O-].[Na+]
reactant | pyridone | N1C(C=CC=C1)=O | C5H5NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | methanol | 15 ml | CO | CH4O
product | 3-bromo-1-methyl-5-(4-pyrimidyl)-2-pyridone | BrC=1C(N(C=C(C1)C1=NC=NC=C1)C)=O | C10H8BrN3O
